US09212184B2
To a stirred solution of 6-bromo-3-iodo-8-methanesulfonyl-imidazo[1,2-a]pyrazine (5.08 g, 12.64 mmol) in NMP (100 mL) was added 3.77 mL isobutylamine (2.77 g, 37.90 mmol, 3 eq) in one portion at rt. After stirring for 2 h at rt, 500 mL water was added and the mixture was extracted with ethyl acetate (3×200 mL). The organic phase was filtered, evaporated and the residue was recrystallized from MeOH/water to yield 3.87 g (77.52%) (6-bromo-3-iodo-imidazo[1,2-a]pyrazin-8-yl)-isobutyl-amine: 1H-NMR (300 MHz, d6-DMSO): δ=8.09 (1H, tr), 7.60 (1H, s), 7.54 (1H, s), 3.19 (2H, dd), 1.95 (1H, m), 0.85 (6H, d) ppm.

reactant | 6-bromo-3-iodo-8-methanesulfonyl-imidazo[1,2-a]pyrazine | 12.64 mmol, 5.08 g | BrC=1N=C(C=2N(C1)C(=CN2)I)S(=O)(=O)C | C7H5BrIN3O2S
reactant | isobutylamine | 37.90 mmol, 3.77 mL, 2.77 g, 3 eq | C(C(C)C)N | C4H11N
reactant | water | 500 mL | O | H2O
solvent | NMP | 100 mL | CN1CCCC1=O | C5H9NO
product | (6-bromo-3-iodo-imidazo[1,2-a]pyrazin-8-yl)-isobutyl-amine | 3.87 g, 77.52% | BrC=1N=C(C=2N(C1)C(=CN2)I)NCC(C)C | C10H12BrIN4
